US06921762B2
Step B: 4-Chloro-6-(2-chloro-4-pyridyl)-2-methylthio-5-(3-(trifluoromethyl)-phenyl)pyrimidine
6-(2-chloro-4-pyridyl)-3-methyl-2-methylthio-5-(3-(trifluoromethyl)-phenyl)-(3H)-pyrimidin-4-one (2.05 g, 5 mmol), POCl3 (3.05 g, 20 mmol), and diisopropylethylamine (2.58 g, 20 mmol) in a 50-ml r.b.flask with a stir bar was stirred at 120° C. for 16 h. The reaction was cooled to RT, 20 ml of EtOAc and 5 g of SiO2 gel were added into the cooled solution, then solvents were evaporated in vacuo at 40° C. The brown solid was placed on a cake of SiO2 gel (˜20 g) and washed by 200 ml of 30% EtOAc in hexane. The brown filtrate was evaporated in vacuo to give an oil product; MS m/z (M+H)+ 416.2. The crude intermediate was used in the next step directly.

reactant | 6-(2-chloro-4-pyridyl)-3-methyl-2-methylthio-5-(3-(trifluoromethyl)-phenyl)-(3H)-pyrimidin-4-one | 5 mmol, 2.05 g | ClC1=NC=CC(=C1)C1=C(C(N(C(=N1)SC)C)=O)C1=CC(=CC=C1)C(F)(F)F | C18H13ClF3N3OS
reactant | POCl3 | 20 mmol, 3.05 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylethylamine | 20 mmol, 2.58 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | 4-Chloro-6-(2-chloro-4-pyridyl)-2-methylthio-5-(3-(trifluoromethyl)-phenyl)pyrimidine | ClC1=NC(=NC(=C1C1=CC(=CC=C1)C(F)(F)F)C1=CC(=NC=C1)Cl)SC | C17H10Cl2F3N3S
